US08791142B2
Step 2) cis-methyl 2-(3-chloro-5-(N′-hydroxycarbamimidoyl)pyridin-2-ylamino)cyclopentanecarboxylate
A solution of cis-methyl 2-(3-chloro-5-cyanopyridin-2-ylamino)cyclopentanecarboxylate (0.154 g; 0.55 mmol), hydroxylamine hydrochloride (0.057 g; 0.82 mmol) and DIEA (0.143 mL; 0.82 mmol) in EtOH (2 mL) was stirred at ambient temperature for 42 hours. The solvent was evaporated in vacuo and the residue dissolved in DCM/water. The mixture was passed through a hydrophobic frit and the solvent evaporated in vacuo to afford the title product (0.172 g; quantitative). 1H NMR (CDCl3, 400 MHz) δ 8.25 (1H, d, J=2 Hz), 7.74 (1H, d, J=2 Hz), 5.74 (1H, d, J=8.4 Hz), 4.77-4.70 (3H, m), 3.61 (3H, s), 3.19-3.14 (1H, m), 2.14-1.70 (6H, m).

reactant | cis-methyl 2-(3-chloro-5-cyanopyridin-2-ylamino)cyclopentanecarboxylate | 0.55 mmol, 0.154 g | ClC=1C(=NC=C(C1)C#N)N[C@@H]1[C@@H](CCC1)C(=O)OC | C13H14ClN3O2
reactant | hydroxylamine hydrochloride | 0.82 mmol, 0.057 g | Cl.NO
reactant | DIEA | 0.82 mmol, 0.143 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 2 mL | CCO | C2H6O
product | cis-methyl 2-(3-chloro-5-(N′-hydroxycarbamimidoyl)pyridin-2-ylamino)cyclopentanecarboxylate | 0.172 g | ClC=1C(=NC=C(C1)C(N)=NO)N[C@@H]1[C@@H](CCC1)C(=O)OC | C13H17ClN4O3
